US08664217B2
Sodium iodide (1.5 g, 10 mmol) was added to a DMF solution (20 ml) of 2-(3-bromopropoxy)tetrahydropyran (0.85 ml, 5 mmol), and stirred at 70° C. for 7 hours. The reaction mixture was cooled to room temperature. (2-Pyridin-3-ylethyl)pyridin-4-ylmethylamine (1.28 g, 6 mmol) and N-ethyl diisopropylamine (1.3 ml, 7.5 mmol) were then added to the reaction mixture and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water, and a saturated sodium chloride aqueous solution, in this order. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1→4:1). The purified product was concentrated under reduced pressure to thereby obtain 236 mg (yield: 13%) of (2-pyridin-3-ylethyl)pyridin-4-ylmethyl-[3-(tetrahydropyran-2-yloxy)propyl]amine as a colorless oil.

reactant | Sodium iodide | 10 mmol, 1.5 g | [I-].[Na+]
reactant | 2-(3-bromopropoxy)tetrahydropyran | 5 mmol, 0.85 ml | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | (2-Pyridin-3-ylethyl)pyridin-4-ylmethylamine | 6 mmol, 1.28 g | N1=CC(=CC=C1)CCNCC1=CC=NC=C1 | C13H15N3
reactant | N-ethyl diisopropylamine | 7.5 mmol, 1.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (2-pyridin-3-ylethyl)pyridin-4-ylmethyl-[3-(tetrahydropyran-2-yloxy)propyl]amine | 236 mg, yield: 13% | N1=CC(=CC=C1)CCN(CCCOC1OCCCC1)CC1=CC=NC=C1 | C21H29N3O2
